US04013680
2-Acetylfuran (22 g) in 6N hydrochloric acid (200 ml) at 65° was treated with a solution of sodium nitrite (35 g) in water (100 ml) over 95 minutes. A 1.3M solution of disodium phthalate (230 ml) was added over 5 minutes whilst a solution of sodium nitrite (28 g) in water (70 ml) was being added over 85 minutes. One hour after the end of the addition of the nitrite the solution was cooled and acidified to pH 1.4 with hydrochloric acid and the precipitated phthalic acid filtered off. The solution was next adjusted to pH 3.5 and extracted with methylene chloride (2 × 100 ml) to remove unreacted 2-acetylfuran (1.8 g; 8%), then adjusted to pH 2.8 and extracted with ethyl acetate (4 × 100 ml) to remove furoic acid and phthalic acid (8.6 g) and finally adjusted to pH 0.2 and extracted with ethyl acetate (5 × 100 ml). Evaporation of the ethyl acetate gave 18 g (64.3%) of fur-2-ylglyoxylic acid m.p. 81°-91° C.

reactant | 2-Acetylfuran | 22 g | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | sodium nitrite | 35 g | N(=O)[O-].[Na+]
reactant | disodium phthalate | 230 ml | C(C=1C(C(=O)[O-])=CC=CC1)(=O)[O-].[Na+].[Na+]
reactant | sodium nitrite | 28 g | N(=O)[O-].[Na+]
reactant | nitrite | N(=O)[O-]
reactant | water | 100 ml | O | H2O
reactant | water | 70 ml | O | H2O
solvent | hydrochloric acid | 6N, 200 ml | Cl | ClH
product | fur-2-ylglyoxylic acid | 18 g, 64.3% | O1C(=CC=C1)C(C(=O)O)=O | C6H4O4
